US08119842B2
A mixture of C—((R)-8-fluoro-6-phenylsulfanyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-methylamine hydrochloride (1.36 kg), DMAP (10 g), acetonitrile (8.6 L), triethylamine (1.27 L), and acetic anhydride (0.41 L) was stirred at 25° C. After thirty minutes water (17.5 L) was added. The resulting slurry was stirred for 30 minutes at 25° C. The product was isolated by filtration and washed with 7.5 L of water. Drying overnight at 50° C. provided 1.34 kg of N—((R)-8-fluoro-6-phenylsulfanyl-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-acetamide (97.4% yield, 99.66% pure by HPLC, 98.08% ee): MP=94.6-95.9° C.; MS (M+1)=330; H1 NMR (300 MHz): δ (DMSO): 1.44-1.91 (4H, m), 1.83 (3H, s), 2.54-2.79 (2H, m), 3.06 (1H, m), 3.16 (2H, m), 6.83 (1H, dd, =1.51, 10.17 Hz), 6.90 (1H, bs), 7.30-7.45 (5H, m, phenyl), 8.01 (1H, bt, J=5.65 Hz, NH); [α]D=7.4° (MeOH). Chiral Assay (Area Norm): Column: Chiralpak AD-H (150×4.6 mm), mobile phase 88/12 hexane/ethanol(isocratic) Flow rate 0.7 ml/min, 25° C., uv @230 nm.: (R)-isomer 99.04/(S)-isomer 0.96

reactant | C—((R)-8-fluoro-6-phenylsulfanyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-methylamine hydrochloride | 1.36 kg | Cl.FC=1C=C(C=C2CCC[C@H](C12)CN)SC1=CC=CC=C1
reactant | acetonitrile | 8.6 L | C(C)#N | C2H3N
reactant | triethylamine | 1.27 L | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.41 L | C(C)(=O)OC(C)=O | C4H6O3
catalyst | DMAP | 10 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 17.5 L | O | H2O
product | N—((R)-8-fluoro-6-phenylsulfanyl-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-acetamide | 1.34 kg, 97.4% yield | FC=1C=C(C=C2CCC[C@H](C12)CNC(C)=O)SC1=CC=CC=C1 | C19H20FNOS
